US04959361
A mixture of 0.94 g (2 mmol) of 6-(2-fluorophenyl) 8-iodo-1-(trifluoromethyl)-4H-[1,2,4]triazolo [4,3-a][1,4]-benzodiazepine, 0.55 g (3 mmol) of N-propargylphthalimide 80 mg of triphenylphosphine, 20 mg of cuprous iodide, 0.6 ml of triethylamine and 50 ml of dimethylformamide was degassed with argon for 10 minutes. Palladium acetate, 25 mg. was then added and the mixture was stirred for 3 days at room temperature. The product was precipitated by dilution with sodium bicarbonate solution and was collected by filtration. It was dissolved in methylene chloride and the solution was washed with bicarbonate solution, dried and evaporated. The residue was chromatographed over 40 g of silica gel using 5% (v/v) of ethanol in methylene chloride. The combined good fractions were evaporated and the residue was crystallized from ethyl acetate to give colorless crystals of 2-{3-[6-(2-fluorophenyl)-1-(trifluoromethyl)-4H-[1,2,4]triazolo[4,3-a][4,1]benzodiazepin-8-yl]-2-ProPynyl}-1H-isoindole-1,3(2H)-dione with m.p. 204°-206° .

reactant | 6-(2-fluorophenyl) 8-iodo-1-(trifluoromethyl)-4H-[1,2,4]triazolo [4,3-a][1,4]-benzodiazepine | 2 mmol, 0.94 g | FC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)I)C(=NN2)C(F)(F)F | C17H9F4IN4
reactant | N-propargylphthalimide | 3 mmol, 0.55 g | C(C#C)N1C(C=2C(C1=O)=CC=CC2)=O | C11H7NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-{3-[6-(2-fluorophenyl)-1-(trifluoromethyl)-4H-[1,2,4]triazolo[4,3-a][4,1]benzodiazepin-8-yl]-2-ProPynyl}-1H-isoindole-1,3(2H)-dione | FC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)C#CCN3C(C1=CC=CC=C1C3=O)=O)C(=NN2)C(F)(F)F | C28H15F4N5O2
